US09290499B2
To a suspension of 6-(methylthio)-1H-pyrazolo[3,4-d]pyrimidin-3(2H)-one (0.50 g, 2.7 mmol) in CH3CN (15 mL) was added a CH3CN solution of P(O)Br3 (1.57 g, 5.5 mmol) in a pressure vessel. The mixture was sonicated for 30 min before being heated to 100° C. for 16 h (overnight). After it was cooled to 0° C., H2O and aqueous ammonium hydroxide were added to basify the mixture. The mixture was stirred at 0° C. for 1 h. The aqueous layer was extracted with EtOAc (10×). The combined EtOAc layer was dried (Na2SO4), and concentrated to give 3-bromo-6-(methylthio)-1H-pyrazolo[3,4-d]pyrimidine (0.51 g, 77%) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ: 9.00 (s, 1H), 5.57 (s, 3H); MS m/z 245.00 [M+H]+.

reactant | 6-(methylthio)-1H-pyrazolo[3,4-d]pyrimidin-3(2H)-one | 2.7 mmol, 0.50 g | CSC1=NC=C2C(=N1)NNC2=O | C6H6N4OS
reactant | P(O)Br3 | 5.5 mmol, 1.57 g | P(=O)(Br)(Br)Br | Br3OP
reactant | H2O | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | 3-bromo-6-(methylthio)-1H-pyrazolo[3,4-d]pyrimidine | 0.51 g, 77% | BrC1=NNC2=NC(=NC=C21)SC | C6H5BrN4S
